data/mechanisms/records/IMS8-EQ8.56c.json
{"mechanism_id": "IMS8-EQ8.56c", "species": [{"species_id": "tetramethylene_distonic_c4h8", "mapped_smiles": "[CH2+:6][CH2:5][CH2:4][CH2:3]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "ethylene_neutral", "mapped_smiles": "[CH2:3]=[CH2:4]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ethylene_distonic_radical_cation", "mapped_smiles": "[CH2+:6][CH2:5]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["tetramethylene_distonic_c4h8"]}, {"state_id": "state_products", "species_ids": ["ethylene_neutral", "ethylene_distonic_radical_cation"]}], "steps": [{"step_id": "step_alpha_central_cc_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_alpha_central_cc_cleavage", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_central_cc_cleavage", "support_type": "textbook_proposed", "locator": {"page": 182, "equation": "8.56", "figure": null, "panel": null, "section": null}, "confidence": 0.6, "curator_note": "Continuation of the upper branch of Equation 8.56: the reaction arrow labelled 'alpha' that leaves the m/z 56 ion and points to 'CH2=CH2+. + C2H4, m/z 28, 65%'. Radical-site alpha-cleavage of the tetramethylene radical cation splits the central C4-C5 bond into two C2H4 units. Book draws 0 arcs for this step (only the 'alpha'-labelled reaction arrow); all three fishhooks encoded here are curator-supplied for electron balance. DRAWN vs ENCODED: the page draws the ion as CH2=CH2+., whose pi bond holds only ONE electron; a one-electron pi bond has no SMILES representation, so the product ion is encoded as the distonic isomer +CH2-CH2. that the arrows actually produce and that relaxes to the drawn CH2=CH2+. (identical composition C2H4+., identical m/z 28.031). The two C2H4 halves are equivalent, so which half retains the charge is fixed by the arrow bookkeeping (radical-site initiation at the C3 terminus, charge retention at the original carbenium terminus C6), not by anything printed on the page."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "electron ionization (consecutive decomposition of an EI fragment ion)", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 56.0621, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c2h4_m28", "species_id": "ethylene_distonic_radical_cation", "step_id": "step_alpha_central_cc_cleavage", "observed_mz": 28.0308, "relative_intensity": 0.65, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
